* Z:\mnt\design.r\spice\examples\1100CS.asc
V1 +V 0 5
V2 0 -V 5
V3 IN 0 SINE(0 100m 10)
E1 N002 0 0 IN .5
E2 N003 0 IN 0 .5
C1 N001 OUT .01µ
XU2 MP_01 0 0 NC_02 MP_03 N002 -V MP_04 MP_05 +V N003 MP_06 N001 OUT OUT LTC1100CS
.tran .3
.lib LTC1100CS.sub
.backanno
.end
